* Created by KLayout
*** My special header ***

* cell check_lvs
* pin t1
* pin t2
* pin vss
.SUBCKT check_lvs t1 t2 vss
* device instance $1 r0 *1 -0.55,0.05 NMOS
XM$1 t1 t1 vss vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $2 r0 *1 3.45,0.05 NMOS
XM$2 vss t1 t2 vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS check_lvs
