* Created by KLayout
*** My special header ***

* cell n_tail
* pin VSS
.SUBCKT n_tail VSS
* device instance $1 r0 *1 -2.5,2.25 NMOS
XM$1 \$8 \$6 \$10 VSS NMOS L=2u W=10u AS=28p AD=15p PS=25.6u PD=13u
* device instance $2 r0 *1 2.5,2.25 NMOS
XM$2 \$10 \$6 \$8 VSS NMOS L=2u W=10u AS=15p AD=28p PS=13u PD=25.6u
.ENDS n_tail
