** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/gilbert_cell/gilbert_cell.sch
.subckt gilbert_cell vb ifn vdd ifp vss lop lon rfn rfp vt
*.PININFO ifp:O ifn:O rfp:I vb:I vt:I rfn:I vdd:B vss:B lon:I lop:I
MM1 ifp vb vdd vdd PMOS w=45u l=2u
MM2 ifn vb vdd vdd PMOS w=45u l=2u
MM3 net3 vt vss vss NMOS w=10u l=2u m=2
MM7 net1 rfp net3 vss NMOS w=20u l=2u
MM8 net2 rfn net3 vss NMOS w=20u l=2u
MM5 ifn lop net1 vss NMOS w=20u l=2u
MM6 ifp lon net1 vss NMOS w=20u l=2u
MM9 ifn lon net2 vss NMOS w=20u l=2u
MM10 ifp lop net2 vss NMOS w=20u l=2u
**** begin user architecture code
* .include /home/ishi-kai/pdk/TR-1um/libs.tech/spice/models/ip62_models
**** end user architecture code
.ends
