* Created by KLayout
*** My special header ***

* cell TOP
* pin BL
* pin BL
* pin GND
* pin GND
* pin VSS
* pin WL
* pin WL
.SUBCKT TOP BL BL$1 GND GND$1 VSS WL WL$1
* device instance $1 r270 *1 3.1,2.5 PMOS
XM$1 \$10 \$9 \$I13 \$8 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r90 *1 8.8,8.5 PMOS
XM$2 \$9 \$10 \$I14 \$8 PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $3 r270 *1 -17.3,6.5 NMOS
XM$3 BL WL \$10 VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r270 *1 -17.3,2.5 NMOS
XM$4 \$10 \$9 GND$1 VSS NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $5 r270 *1 29.2,8.5 NMOS
XM$5 GND \$10 \$9 VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $6 r270 *1 29.2,4.5 NMOS
XM$6 \$9 WL$1 BL$1 VSS NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS TOP
