* Created by KLayout
*** My special header ***

* cell sram
* pin BL
* pin BLB
* pin Q
* pin QB
* pin Vdd
* pin Vss
* pin WL
.SUBCKT sram BL BLB Q QB Vdd Vss WL
* device instance $1 r90 *1 8.8,-232.7 PMOS
XM$1 QB Q Vdd Vdd PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r270 *1 3.1,-238.7 PMOS
XM$2 Q QB Vdd Vdd PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $3 r270 *1 29.2,-232.7 NMOS
XM$3 Vss Q QB Vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r270 *1 29.2,-236.7 NMOS
XM$4 QB WL BLB Vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $5 r270 *1 -17.3,-234.7 NMOS
XM$5 BL WL Q Vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $6 r270 *1 -17.3,-238.7 NMOS
XM$6 Q QB Vss Vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS sram
