* Created by KLayout
*** My special header ***

* cell sram_array
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin VSS
* pin WL0
* pin WL1
.SUBCKT sram_array BL0 BL1 BLB0 BLB1 VSS WL0 WL1
* cell instance $1 r0 *1 21.4,-134
X$1 WL1 \$9 BL1 BLB1 VSS sram
* cell instance $2 r0 *1 -36.1,-134
X$2 WL1 \$9 BL0 BLB0 VSS sram
* cell instance $3 r0 *1 21.4,-106
X$3 WL0 \$9 BL1 BLB1 VSS sram
* cell instance $4 r0 *1 -36.1,-106
X$4 WL0 \$9 BL0 BLB0 VSS sram
.ENDS sram_array

* cell sram
* pin WL
* pin Vdd
* pin BL
* pin BLB
* pin Vss
.SUBCKT sram WL Vdd BL BLB Vss
* device instance $1 r270 *1 3.1,-308.3 PMOS
XM$1 Q QB Vdd Vdd PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r90 *1 8.8,-302.3 PMOS
XM$2 QB Q Vdd Vdd PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $3 r270 *1 -17.3,-304.3 NMOS
XM$3 BL WL Q Vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r270 *1 -17.3,-308.3 NMOS
XM$4 Q QB Vss Vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $5 r270 *1 29.2,-302.3 NMOS
XM$5 Vss Q QB Vss NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $6 r270 *1 29.2,-306.3 NMOS
XM$6 QB WL BLB Vss NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS sram
