* Created by KLayout
*** My special header ***

* cell sram_dense_1x1
* pin BL0
* pin BLB0
* pin Q
* pin QB
* pin VDD
* pin VSS
* pin WL0
.SUBCKT sram_dense_1x1 BL0 BLB0 Q QB VDD VSS WL0
* device instance $1 r0 *1 5,31.6 PMOS
XM$1 Q QB VDD VDD PMOS L=1u W=3.4u AS=10.88p AD=10.88p PS=13.2u PD=13.2u
* device instance $2 r0 *1 16.6,31.6 PMOS
XM$2 QB Q VDD VDD PMOS L=1u W=3.4u AS=10.88p AD=10.88p PS=13.2u PD=13.2u
* device instance $3 r0 *1 15.7,2.4 NMOS
XM$3 BLB0 WL0 QB VSS NMOS L=1u W=3.4u AS=10.88p AD=6.46p PS=13.2u PD=7.2u
* device instance $4 r0 *1 15.7,7.2 NMOS
XM$4 QB Q VSS VSS NMOS L=1u W=3.4u AS=6.46p AD=10.88p PS=7.2u PD=13.2u
* device instance $5 r0 *1 5.9,2.4 NMOS
XM$5 BL0 WL0 Q VSS NMOS L=1u W=3.4u AS=10.88p AD=6.46p PS=13.2u PD=7.2u
* device instance $6 r0 *1 5.9,7.2 NMOS
XM$6 Q QB VSS VSS NMOS L=1u W=3.4u AS=6.46p AD=10.88p PS=7.2u PD=13.2u
.ENDS sram_dense_1x1
