** sch_path: /home/ishi-kai/sram/sram_array.sch
.subckt sram_array BL0 BLB0 BL1 BLB1 WL1 WL0 Vss Vdd Vss Vdd Vss Vdd Vss Vdd Vdd PREB PREB PREB PREB Vss
*.PININFO BL0:B BLB0:B BL1:B BLB1:B WL1:I WL0:I Vss:I Vdd:I Vss:I Vdd:I Vss:I Vdd:I Vss:I Vdd:I Vdd:I PREB:I PREB:I PREB:I PREB:I
*+ Vss:I
x1 WL0 Vdd BLB0 net1 net2 BL0 Vss sram
x2 WL1 Vdd BLB0 net3 net4 BL0 Vss sram
x3 WL0 Vdd BLB1 net5 net6 BL1 Vss sram
x4 WL1 Vdd BLB1 net7 net8 BL1 Vss sram
MXM1 BL0 PREB Vdd Vdd PMOS w=10.2u l=1u
MXM2 BLB0 PREB Vdd Vdd PMOS w=10.2u l=1u
MXM3 BL1 PREB Vdd Vdd PMOS w=10.2u l=1u
MXM4 BLB1 PREB Vdd Vdd PMOS w=10.2u l=1u
MXM5 BL0 net9 Vss Vss NMOS w=3.4u l=1u
MXM6 BLB0 net10 Vss Vss NMOS w=3.4u l=1u
MXM7 BL1 net11 Vss Vss NMOS w=3.4u l=1u
MXM8 BLB1 net12 Vss Vss NMOS w=3.4u l=1u
MXM9 BL0 net13 BLB0 Vdd PMOS w=10.2u l=1u
MXM10 BL1 net14 BLB1 Vdd PMOS w=10.2u l=1u
.ends

* expanding   symbol:  sram.sym # of pins=7
** sym_path: /home/ishi-kai/sram/sram.sym
** sch_path: /home/ishi-kai/sram/sram.sch
.subckt sram WL Vdd BLB Q QB BL Vss
*.PININFO Vdd:B BLB:B BL:B WL:I Q:O QB:O Vss:B
MXM1 Q QB Vss Vss NMOS w=3.4u l=1u
MXM2 Q QB Vdd Vdd PMOS w=3.4u l=1u
MXM3 QB Q Vss Vss NMOS w=3.4u l=1u
MXM4 QB Q Vdd Vdd PMOS w=3.4u l=1u
MXM7 Q WL BL Vss NMOS w=3.4u l=1u
MXM6 QB WL BLB Vss NMOS w=3.4u l=1u
.ends

